US09422285B2
Methyl 3-(aminomethyl)adamantane-1-carboxylate
73 mg (0.30 mmol) of 3-(aminomethyl)adamantane-1-carboxylic acid were initially charged in 1.48 ml of methanol, and 1.48 ml of 4 N hydrogen chloride solution in dioxane were added. The mixture was stirred under reflux for 5 h. The mixture was concentrated by evaporation and the residue was admixed with saturated sodium hydrogencarbonate solution. The mixture was extracted three times with ethyl acetate, and the combined organic phases were dried over sodium sulphate and then concentrated by evaporation and dried. 55 mg of the target compound (82% of theory) were obtained, which were used in the subsequent stage without further purification.

reactant | 3-(aminomethyl)adamantane-1-carboxylic acid | 0.30 mmol, 73 mg | NCC12CC3(CC(CC(C1)C3)C2)C(=O)O | C12H19NO2
reactant | hydrogen chloride | 4 N, 1.48 ml | Cl | ClH
reactant | methanol | 1.48 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Methyl 3-(aminomethyl)adamantane-1-carboxylate | 55 mg, 82% | NCC12CC3(CC(CC(C1)C3)C2)C(=O)OC | C13H21NO2
